US06479527B1
Methyl 4-(3,4-dichlorobenzyl)-2-dimethylaminomethylfuro[3,2-b]pyrrole-5-carboxylate (Compound No. 46 in Table 1)
Methyl 4-(3,4-dichlorobenzyl)-2-formylfuro[3,2-b]pyrrole-5-carboxylate (0.25 g) was dissolved in methanol (5 mL) and THF (10 mL), and to this was added sodium acetate (116 mg) and a portion of MgSO4, followed by dimethylamine solution (2M in methanol, 0.53 mL). After 1 hour, a further 2.5 ml dimethylamine solution was added, followed after 30 min by sodium cyanoborohydride (0.45 g). The reaction was stirred for 18 hours and then quenched by addition of 1M potassium carbonate solution, and extracted with ethyl acetate. Combined organic extracts were dried (MgSO4) and concentrated in vacuo. The residue was purified by column chromatography using ethyl acetate increasing to 10% methanol: ethyl acetate as eluent to give a yellow oil (0.15 g, 55%), NMR d(CDCl3) 2.3 (6H, s), 3.5 (2H, s), 3.8 (3H, s), 5.55 (2H, s), 6.15 (1H, s), 6.85 (1H, s), 6.95 (2H, dd), 7.2 (1H, d), 7.35 (1H, d). M/z (+) 383 (MH+), 381, 338, 336.

reactant | Methyl 4-(3,4-dichlorobenzyl)-2-formylfuro[3,2-b]pyrrole-5-carboxylate | 0.25 g | ClC=1C=C(CN2C3=C(C=C2C(=O)OC)OC(=C3)C=O)C=CC1Cl | C16H11Cl2NO4
reactant | sodium acetate | 116 mg | C(C)(=O)[O-].[Na+]
reactant | MgSO4 | [O-]S(=O)(=O)[O-].[Mg+2]
reactant | dimethylamine | 2M, 0.53 mL | CNC | C2H7N
reactant | dimethylamine | 2.5 ml | CNC | C2H7N
reactant | sodium cyanoborohydride | 0.45 g | C(#N)[BH3-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | Methyl 4-(3,4-dichlorobenzyl)-2-dimethylaminomethylfuro[3,2-b]pyrrole-5-carboxylate | 0.15 g, 55% | ClC=1C=C(CN2C3=C(C=C2C(=O)OC)OC(=C3)CN(C)C)C=CC1Cl | C18H18Cl2N2O3
